US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-(4-methylphenyl)-1-piperazinecarboxamide
As described for example 159, 7-chloro-4-(1-piperazinyl)-2-quinolinamine, 4-methylphenyl isocyanate, and diisopropylethyl amine, are reacted to give the product as a white solid. LC-MS: 395 (M++1). 1H NMR (DMSO-d6) δ 2.25 (s, 3H), 3.0–3.1 (m, 4H), 3.64–3.75 (m, 4H), 6.3 (s, 1H), 6.5 (s, 2H), 7.0–7.1 (d, 2H), 7.1–7.2 (m, 1H), 7.3–7.45 (m, 3H), 7.75–7.85 (d, 1H), 8.5–8.6 (s, 1H).

reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
reactant | 4-methylphenyl isocyanate | CC1=CC=C(C=C1)N=C=O | C8H7NO
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-(4-methylphenyl)-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)C)Cl | C21H22ClN5O
